US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-fluoro-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 87 mg of 4-fluoro-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 6.90 (t, 1H, J=8.8 Hz, 4.4 Hz), 7.17 (t, 1H, J=7.6 Hz), 7.38–7.46 (m, 5H), 7.52 (d, 2H, J=8 Hz), 7.60 (t, 1H, J=7.2 Hz), 7.70 (d, 1H, J=8.8 Hz), 7.83 (td, 1H, J=8.4, 1.8 Hz), 10.09 (s, 1H). MS: m/z 390.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-fluoro-benzenesulfonyl chloride | 87 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-fluoro-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)F | C19H13ClFNO3S
